US05879894
Benzyl 4-bromo-but-2-enate
To a solution of benzyl crotonate (4.0 g, 22.73 mmol) in anhydrous carbon tetrachloride (20 ml) was added N-bromosuccinimide (4.045 g, 22.7 mmol). The resulting suspension was refluxed at 100° C. under nitrogen for 20 minutes. After cooling to room temperature, the solid was removed by filtration. The filtrate was evaporated under reduced pressure to dryness. The oily residue was separated on a flash column (silica, F 4×40 cm), packed with hexane. The column was eluted with 4 liters of 4% ethyl acetate. The desired product was obtained as an oil (510 mg, 9% yield). Rf: 0.4 (10% ether/hexane) 1H NMR (CDCl3): δppm 3.99 (2H, dd, J1=7.4 Hz, J2=1.3 Hz), 5.19 (2H, s), 6.07 (1H, dt, J1=15.3 Hz, J2=1.1 Hz), 7.04 (1H, m), 7.36 (5H, m). 13C NMR (CDCl3): δppm 29.0 (t), 66.5 (t), 124.2 (d), 128.2 (d), 128.3 (d), 128.5 (d), 135.8 (s), 142.2 (d), 165.2 (s).

reactant | benzyl crotonate | 22.73 mmol, 4.0 g | C(\C=C\C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | N-bromosuccinimide | 22.7 mmol, 4.045 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Benzyl 4-bromo-but-2-enate | BrCC=CC(=O)OCC1=CC=CC=C1 | C11H11BrO2
